US06872718B1
1-(2,5-Dimethoxy-3,6-dimethylphenyl)-2-propanamine
To a solution of 1,4-dimethoxy-2,5-dimethyl-3-(2-nitro-1-propenyl)benzene (5.0 g, 19.9 mmol) in tetrahydrofuran (100 ml) was added lithium aluminum hydride (4.0 g, 105.4 mmol) with cooling on ice, and the reaction mixture was heated under reflux for 6 hours. To the reaction mixture was added HIFLO-SUPERCEL (trade name) (5 g), and then water was added dropwise (1.5 ml) with cooling on ice. The resultant mixture was suspended in ethyl acetate, filtered and concentrated under reduced pressure to obtain 4.2 g of the desired product as an oil.

reactant | 1,4-dimethoxy-2,5-dimethyl-3-(2-nitro-1-propenyl)benzene | 19.9 mmol, 5.0 g | COC1=C(C(=C(C(=C1)C)OC)C=C(C)[N+](=O)[O-])C | C13H17NO4
reactant | lithium aluminum hydride | 105.4 mmol, 4.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2,5-Dimethoxy-3,6-dimethylphenyl)-2-propanamine | 4.2 g, Yield: 95% | COC1=C(C(=C(C=C1C)OC)C)CC(C)N | C13H21NO2
